Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][C:9]([H:10])([H:11])[H:12].[O:3]=[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.83508601445
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-0.8076683143699999
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],3.74553568485
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]=[C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.06007356725
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.02412436961
[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3],5.27606758631
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]1[C:2][C:3]1[H:4],3.4883196324
[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-6.4721962385800005
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5](#[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][H:4],1.60803538433
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]#[C:3][H:4],1.56722800169
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],-1.22453430995
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:3]([H:4])(=[C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:1][O:2],2.55010526278
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11]>>[H:9].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]#[C:10][H:11],1.95587465958
[C:8]([H:9])[H:10].[H:1][O:2][O:3][C:4]([H:5])[C:6]#[C:7]>>[H:1][O:2][O:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],-7.025682475449999
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11],-2.7696935907
[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]([O:7][H:8])[O:9][H:10]>>[C:4]([H:5])=[C:6]([O:7][H:8])[O:9][H:10].[H:1][C:2]#[C:3],6.4866143986
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.28392134025
[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.58038780486
[H:1][O:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[H:10].[H:1][O:2][O:3],0.5353388183209999
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.05117898502
[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[H:1][O:2][C@@:3]1([H:4])[O:5][C:6][C:7]1[H:8],-0.0931846917101
[C:1][C:2]([C:3]([H:4])([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[C:3]([H:4])([H:5])[H:6],1.31434897975
[C:3]([H:4])([H:5])[O:6][H:7].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][H:7],-0.564379783241
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.88645465924
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7][H:8],5.10738255513
[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])#[C:5][H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[H:10],1.13212473213
[C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.606921322391
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([C:4]([H:5])([H:6])[H:15])[H:17].[H:1][C:2]([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])([C:14])[H:16],7.03217699857
